US07737277B2
Di-tert-butyl-trimethylsilanylmethyl-phosphane (5).
50.00 g (0.277 mol) of Di-t-butylchlorophosphine, 304 ml of 1.0 M pentane solution of (trimethylsilylmethyl)lithium and 150 ml of THF) were refluxed under argon for 3 days. The reaction mixture was allowed to cool off to RT and an aqueous solution of ammonium chloride was added slowly. The organic phase was separated, and dried with magnesium sulfate. After removal of the solvent, the product was purified by distillation in vacuum. The yield of di-tert-butyl-trimethylsilanylmethyl-phosphane was 55.32 g (86%) with b.p. 50-52° C./0.5 mm. 31P NMR (C6D6)+20.05 ppm. 1H NMR (C6D6) 0.01 (s, 9H, SiMe3), 0.23 (d, 2H, 2JPH=5.34 Hz, P—CH2—SiMe3), 0.91 (s, 9H, Me3C), 0.93 (s, 9H, Me3C). Anal. Calcd. for C12H29PSi: C, 62.01; H, 12.58; P, 13.33. Found: C, 61.89; H, 12.53; P, 13.25.

reactant | Di-t-butylchlorophosphine | 0.277 mol, 50.00 g | C(C)(C)(C)P(Cl)C(C)(C)C | C8H18ClP
reactant | pentane | 1.0 M, 304 ml | CCCCC | C5H12
reactant | (trimethylsilylmethyl)lithium | C[Si](C)(C)C[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | Di-tert-butyl-trimethylsilanylmethyl-phosphane | C(C)(C)(C)P(C[Si](C)(C)C)C(C)(C)C | C12H29PSi
